US04785019
Preparation of N-Cyanomethyl-2-chlorobenzamide
To a stirred mixture of 9.3 g (0.1 mole) aminoacetonitrile hydrochloride and 20.2 g (0.2 moles) triethylamine in 200 ml chloroform, 17.5 g (0.1 mole) o-chlorobenzoyl chloride in 25 ml methylene chloride were dropped in over 30 minutes in a moderately exothermic addition. The reaction mixture was washed twice with 75 ml water. On the second washing, solids separated which were filtered and washed well with water. Beige solids were obtained.

reactant | aminoacetonitrile hydrochloride | 0.1 mole, 9.3 g | Cl.NCC#N
reactant | triethylamine | 0.2 moles, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | o-chlorobenzoyl chloride | 0.1 mole, 17.5 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-Cyanomethyl-2-chlorobenzamide | C(#N)CNC(C1=C(C=CC=C1)Cl)=O | C9H7ClN2O
